US07223794B2
a) 1,1-Dimethylethyl N-[2-(methoxymethylamino)-2-oxoethyl]carbamate
N,O-Dimethylhydroxylamine hydrochloride (1.95 g), EDCI (3.83 g), N-methylmorpholine (2.2 ml) and DMAP (2.44 g) were added to a solution of N-[(1,1-dimethylethoxy)carbonyl]glycine (3.5 g) in dichloromethane (60 ml) and then stirred at room temperature for 3 days. Dichloromethane (100 ml) was added and then the solution was washed with 2M hydrochloric acid (three times), NaHCO3 solution (three times) and water (three times) and then dried (MgSO4). The organic layer was separated and the aqueous layer was further extracted twice. The solvent was evaporated to give the sub-title compound (3.42 g).

reactant | N,O-Dimethylhydroxylamine hydrochloride | 1.95 g | Cl.CNOC
reactant | EDCI | 3.83 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | N-methylmorpholine | 2.2 ml | CN1CCOCC1 | C5H11NO
reactant | N-[(1,1-dimethylethoxy)carbonyl]glycine | 3.5 g | CC(C)(OC(=O)NCC(=O)O)C | C7H13NO4
catalyst | DMAP | 2.44 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1,1-Dimethylethyl N-[2-(methoxymethylamino)-2-oxoethyl]carbamate | 3.42 g | COCNC(CNC(OC(C)(C)C)=O)=O | C9H18N2O4
